US07868008B2
To a solution of 4-bromo-5,7-Dimethoxy-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-lone (0.100 g, 0.25 mmol) in benzene under N2 atmosphere was added 2,2′-azobis(2-methyl proponitrile) AIBN (5.0 mg), followed by tributyl tin hydride (0.132 mL, 0.5 mmol). The resulting mixture was refluxed in an oil bath for 2 h. The reaction was monitored by GC-MS for the disappearance of starting material. The reaction mixture was cooled to room temperature and stirred with potassium fluoride (200 mg) for 45 min. The solids were filtered and the filtrate was concentrated. The resulting material was purified using column chromatography (typically 40% ethyl acetate in hexanes) to give 5,7-Dimethoxy-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-lone (0.035 g, 44%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.82 (s, 3H), 3.95 (s, 3H), 4.15 (s, 2H), 4.69 (s, 2H), 6.43 (d, 2H), 7.25 (m, 4H). GC-MS: m/z 317 (M)+, 299 (M-18)+.

reactant | 4-bromo-5,7-Dimethoxy-2-(4-chloro-benzyl)-2,3-dihydro-isoindol | 0.25 mmol, 0.100 g | BrC1=C2CN(CC2=C(C=C1OC)OC)CC1=CC=C(C=C1)Cl | C17H17BrClNO2
reactant | tributyl tin hydride | 0.5 mmol, 0.132 mL | C(CCC)[SnH](CCCC)CCCC
reactant | potassium fluoride | 200 mg | [F-].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,7-Dimethoxy-2-(4-chloro-benzyl)-2,3-dihydro-isoindol | 0.035 g, 44% | COC=1C=C2CN(CC2=C(C1)OC)CC1=CC=C(C=C1)Cl | C17H18ClNO2
